US04659717
C. Preparation of 4-benzo[b]thien-3-yl-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, diethyl ester
Following the procedure of Example 1B, 2.04 g of benzo[b]thiophene-3-carboxaldehyde, 3.2 ml of ethyl acetoacetate, and 1.5 ml of ammonium hydroxide were allowed to react in 15 ml of ethanol to provide 1.4 g of the desired title product, m.p. 139°-142° C.

reactant | benzo[b]thiophene-3-carboxaldehyde | 2.04 g | S1C2=C(C(=C1)C=O)C=CC=C2 | C9H6OS
reactant | ethyl acetoacetate | 3.2 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ammonium hydroxide | 1.5 ml | [OH-].[NH4+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-benzo[b]thien-3-yl-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, diethyl ester | 1.4 g | S1C2=C(C(=C1)C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCC)C=CC=C2 | C21H23NO4S
